US08021822B2
In tetrahydrofuran, 1-adamantanecarbonyl chloride and 2-bromo-2,2-difluoroethanol were mixed and ice cooled. Triethylamine was added to the mixture. By standard separation operation and solvent distillation, 2-bromo-2,2-difluoroethyl 1-adamantanecarboxylate was obtained. This compound was converted into a sodium sulfinate with sodium dithionite and then oxidized with hydrogen peroxide, yielding the target compound, sodium 2-(1-adamantanecarbonyloxy)-1,1-difluoroethane-sulfonate.

reactant | 1-adamantanecarbonyl chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | 2-bromo-2,2-difluoroethanol | BrC(CO)(F)F | C2H3BrF2O
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-bromo-2,2-difluoroethyl 1-adamantanecarboxylate | C12(CC3CC(CC(C1)C3)C2)C(=O)OCC(F)(F)Br | C13H17BrF2O2
